US07435731B2
Step 1. Preparation of (2-chlorophenyl)-(4,6-dichloro-2-methylsulfanylpyrimidin-5-yl)-methanol
To a solution of 4,6-dichloro-2-(methylthio)pyrimidine (Aldrich) (5.0 g, 25.64 mmol) in dry THF (130 mL) at −78° C. under nitrogen was slowly added a solution of 2.0 M LDA (23.0 mL, 1.8 eq) in THF via a syringe. The resulting mixture was stirred at −78° C. for an additional 20 minutes, after which 2-chlorobenzaldehyde (Aldrich) (7.2 mL, 2 eq) was added dropwise via a syringe. The reaction mixture was stirred for an additional 30 minutes at −78° C. and then quenched with saturated ammonium chloride solution. Ethyl acetate was added, and the mixture was allowed to warm to room temperature. The aqueous layer was separated and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and concentrated to give the crude product (14.2 g) as an oil. Purification using Flash Column Chromatography on Silica Gel, eluting with 5% ethyl acetate in hexanes gave the title compound (8.60 g, (M+H)+=336, M.P.=109.5-112.5° C.) which crystallized upon standing to give a white solid.

reactant | 4,6-dichloro-2-(methylthio)pyrimidine | 25.64 mmol, 5.0 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | LDA | 2.0 M, 23.0 mL, 1.8 eq | [Li+].CC(C)[N-]C(C)C
reactant | 2-chlorobenzaldehyde | 7.2 mL, 2 eq | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | (2-chlorophenyl)-(4,6-dichloro-2-methylsulfanylpyrimidin-5-yl)-methanol | 8.60 g | ClC1=C(C=CC=C1)C(O)C=1C(=NC(=NC1Cl)SC)Cl | C12H9Cl3N2OS
